US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(4-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (33.2 mg, 0.119 mmol) and 1-(bromomethyl)-4-nitrobenzene (45.9 mg, 0.176 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (32.7 mg, 51%). EI-MS m/z 459 (M+) Rt (1.83 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.119 mmol, 33.2 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 1-(bromomethyl)-4-nitrobenzene | 0.176 mmol, 45.9 mg | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(4-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide | 32.7 mg, 51% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOC2=CC=C(C=C2)[N+](=O)[O-])(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H31N2O4.BrH/c31-28(23-8-3-1-4-9-23,24-10-5-2-6-11-24)27-16-19-30(22-27,20-17-27)18-7-21-34-26-14-12-25(13-15-26)29(32)33;/h1-6,8-15,31H,7,16-22H2;1H/q+1;/p-1
